US07829563B2
1H-Indole-5-carboxylic acid methoxy-methyl-amide
A mixture of 0.483 g (3 mmol) 1H-Indole-5-carboxylic acid, 0.351 mg (3.6 mmol) N,O-dimethylhydroxylamine, 1.155 g (3.6 mmol) TBTU and 1.163 g (9 mmol) DIPEA in 15 mL DMF was stirred at room temperature for 2 h and evaporated. NaHCO3 aq. was added and the mixture was extracted with DCM. The combined organic layers were dried with MgSO4, evaporated and the title compound was used crude in the subsequent reaction.

reactant | 1H-Indole-5-carboxylic acid | 3 mmol, 0.483 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | N,O-dimethylhydroxylamine | 3.6 mmol, 0.351 mg | CNOC | C2H7NO
reactant | TBTU | 3.6 mmol, 1.155 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 9 mmol, 1.163 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1H-Indole-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1C=C2C=CNC2=CC1)C | C11H12N2O2
